US06403623B1
To a solution of salicylic acid (7 g, 0.05 mol) in methanol (100 mL) at −78° C., SOCl2 (8 mL, 0.11 mol, 2.2 equiv.) was added dropwise. The reaction mixture was stirred at 40° C. overnight, concentrated and extracted with EtOAc. The organic layer was washed with NaHCO3, brine, dried over Na2SO4, filtered and concentrated. The product was then dissolved in DMF; BnBr (9 mL, 0.075 mol, 1.5 equiv.), K2CO3(27.5 g, 0.2 mol, 4 equiv.) and NaI (75 mg) were added. The reaction mixture was stirred at room temperature for 12 h, diluted with EtOAc, washed with water, 0.5N HCl, and brine, dried over Na2SO4, filtered, concentrated and chromatographed on silica gel eluting with hexanes/EtOAc (10:1), to give methyl 2-(benzyloxy)benzoate as an oil (6.8 g, 0.03 mol, 57%). To the methyl ester was added KOH (3.2 g, 0.06 mol, 2 equiv.) and THF/H2O (1:1) (20 mL). The reaction mixture was stirred at room temperature overnight and extracted with EtOAc. The aqueous layer was acidified to pH 2 with 2N HCl and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated to afford 2-(benzyloxy)benzoic acid as white crystals (m=4.5 g, 70%).

reactant | salicylic acid | 0.05 mol, 7 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | SOCl2 | 0.11 mol, 8 mL, 2.2 equiv. | O=S(Cl)Cl | Cl2OS
reactant | BnBr | 0.075 mol, 9 mL, 1.5 equiv. | C1=CC=C(C=C1)CBr | C7H7Br
reactant | K2CO3 | 0.2 mol, 27.5 g, 4 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 100 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | NaI | 75 mg | [Na+].[I-]
product | methyl 2-(benzyloxy)benzoate | 0.03 mol, 6.8 g, 57% | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC=C1 | C15H14O3
